US05114945
(i) 2-(Chloromethyl)-4-phenylpyridine hydrochloride
A solution of 4-phenyl-2-pyridinemethanol (1.57 g) in ether (5 ml) was treated with ethereal hydrogen chloride (ca 5 ml). The resulting solid was filtered off and added to redistilled thionylchloride (7.5 ml) at ca 0°. The brown solution was stirred at ca 0° for 2 h and at 22° for 0.5 h. Ether (100 ml) was added and the resulting solid was filtered off to give the title compound as a solid (1.81 g). T.l.c. Silica (Dichloromethane, ethanol and ammonia 200:8:1) Rf 0.7.

reactant | 4-phenyl-2-pyridinemethanol | 1.57 g | C1(=CC=CC=C1)C1=CC(=NC=C1)CO | C12H11NO
reactant | hydrogen chloride | ca 5 ml | Cl | ClH
solvent | ether | 5 ml | CCOCC | C4H10O
product | 2-(Chloromethyl)-4-phenylpyridine hydrochloride | 1.81 g | Cl.ClCC1=NC=CC(=C1)C1=CC=CC=C1 | InChI=1S/C12H10ClN.ClH/c13-9-12-8-11(6-7-14-12)10-4-2-1-3-5-10;/h1-8H,9H2;1H
